US07501422B2
a) (2S,4S)-4-[5-(2,4-Difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a solution of (2,4-difluoro-phenyl)-tetrazole (0.44 g, 1.1 mmol) in 5 ml DMF was added 0.1 g (0.55 mmol) of (2S,4R)-2-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-4-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester and anhydrous sodium carbonate (0.15 g, 1.4 mmol). The mixture was stirred vigorously at 60 degree overnight. The solution was diluted with 30 ml EA and washed with 1M Na2CO3, 5% citric acid and brine, dried and concentrated to give the crude product as yellow oil (0.14 g, 0.34 mmol). MS m/e=410.3 [M+H]+.

reactant | (2,4-difluoro-phenyl)-tetrazole | 1.1 mmol, 0.44 g | FC1=C(C=CC(=C1)F)C1=NN=NN1 | C7H4F2N4
reactant | (2S,4R)-2-[4-(2-cyano-phenyl)-piperazine-1-carbonyl]-4-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.55 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N | C28H34N4O6S
reactant | sodium carbonate | 1.4 mmol, 0.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EA | 30 ml | CC(OCC)=O | C4H8O2
product | (2S,4S)-4-[5-(2,4-Difluoro-phenyl)-tetrazol-2-yl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.34 mmol, 0.14 g | COC(=O)[C@H]1N(C[C@H](C1)N1N=C(N=N1)C1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C | C18H21F2N5O4
